US08114872B2
2-Chloro-4-iodo-5-methoxymethoxy-pyridine
Add tert-buty lithium (1.7 M in pentane, 72 mL, 123 mmol) to a solution of 2-chloro-5-methoxymethoxy-pyridine (10.8 g, 62 mmol) in THF (300 mL) at −70° C. dropwise over 10 min. Stir the resulting solution at −70° C. for 30 min. Add a solution of iodine (23 g, 92 mmol) in THF (150 mL) dropwise over 30 min. Stir the resulting solution at −70° C. for 1 h. Remove the ice bath and allow the reaction to warm to RT. Dilute the mixture with ethyl acetate and water and isolate the phases. Extract the aqueous phase with two portions of ethyl acetate. Combine the organic extracts and wash with two portions of aqueous sodium thiosulfate, one portion of water, and one portion of saturated aqueous sodium chloride. Dry over sodium sulfate, filter, and evaporate. Triturate the resulting solid with hexane. Collect the solid by vacuum filtration and wash the solid with hexane. Dry the solid under vacuum to give the title compound 10.8 g (58%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ 8.08 (s, 1H), 7.98 (s, 1H), 5.43 (s, 2H), 3.40 (s, 3H).

reactant | tert-buty lithium | 123 mmol, 1.7 M, 72 mL | C(C)(C)(C)[Li]
reactant | 2-chloro-5-methoxymethoxy-pyridine | 62 mmol, 10.8 g | ClC1=NC=C(C=C1)OCOC | C7H8ClNO2
reactant | iodine | 92 mmol, 23 g | II | I2
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Chloro-4-iodo-5-methoxymethoxy-pyridine | 10.8 g, 58% | ClC1=NC=C(C(=C1)I)OCOC | C7H7ClINO2
